US07160888B2
Synthesis of 7-{4-[4-(4-Methyl-pyrimidin-2-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 4-methyl-2-piperazin-1-yl-pyrimidine hydrochloride (U.S. Pat. No. 6,303,603) was coupled by reductive amination to 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound. MS: APCI: M+1: 397.2 (Exact Mass: 396.23).

reactant | 4-methyl-2-piperazin-1-yl-pyrimidine hydrochloride | Cl.CC1=NC(=NC=C1)N1CCNCC1
reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
product | 7-{4-[4-(4-Methyl-pyrimidin-2-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | CC1=NC(=NC=C1)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O | C21H28N6O2
